US08278290B2
(iii) [2-(1-Benzyl-1H-pyrazol-4-yl)-6-methoxy-benzofuran-3-yl]-(3,4,5-trimethoxyphenyl)-methanone
This compound was prepared by application of the general procedure to 2-iodo-5-methoxy-phenol, 1-benzyl-4-ethynyl-1H-pyrazole and 3,4,5-trimethoxy-iodo-benzene. The crude product was stirred with potassium carbonate (excess) in methanol to hydrolyse ester by-products and submitted to silica-gel flash chromatography (eluent=2:1 hexanes:ethyl acetate) to afford the title compound as a yellow resin that crystallised after trituration in diethyl ether (31% yield). An analytical sample was obtained by preparative thin layer chromatography (eluent=2:1 hexane: ethyl acetate). 1H-NMR (CDCl3) δ 8.10 (s, 1H), 8.03 (s, 1H), 7.36-7.21 (m, 5H), 7.13 (d, J=8.7 Hz, 1H), 7.11 (s, 2H), 7.03 (d, J=2.0 Hz, 1H), 6.79 (dd, J 8.7, 2.0 Hz, 1H), 5.29 (s, 2H), 3.92 (s, 3H), 3.85 (s, 3H), 3.75 (s, 6H). 13C—NMR (CDCl3) δ 190.3, 158.2, 154.3, 153.3, 153.0, 142.4, 139.3, 135.7, 133.7, 130.3, 128.9, 128.3, 127.8, 121.8, 120.9, 114.0, 113.1, 112.3, 107.1, 95.6, 61.1, 56.4, 56.3, 55.8.

reactant | 2-iodo-5-methoxy-phenol | IC1=C(C=C(C=C1)OC)O | C7H7IO2
reactant | 1-benzyl-4-ethynyl-1H-pyrazole | C(C1=CC=CC=C1)N1N=CC(=C1)C#C | C12H10N2
reactant | 3,4,5-trimethoxy-iodo-benzene | COC=1C=C(C=C(C1OC)OC)I | C9H11IO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [2-(1-Benzyl-1H-pyrazol-4-yl)-6-methoxy-benzofuran-3-yl]-(3,4,5-trimethoxyphenyl)-methanone | C(C1=CC=CC=C1)N1N=CC(=C1)C=1OC2=C(C1C(=O)C1=CC(=C(C(=C1)OC)OC)OC)C=CC(=C2)OC | C29H26N2O6
